US06897210B2
Trifluoromethanesulphonic anhydride (0.55 ml, 3.3 mmol) was added to a stirred suspension of 4-(chloro-2-fluoroanilino)7-hydroxy-6-methoxyquinazoline (959 mg, 3 mmol), (prepared as described for the starting material in Example 2), in methylene chloride (2.2 ml) and pyridine (2.2 ml) under argon at 0° C. Thee reaction mixture was stirred for 1 hour at 0° C. allowed to warm to ambient temperature and stirred for a further 1.5 hours. The volatiles were removed by evaporation, the residue was dissolved in ethyl acetate, washed with dilute hydrochloric acid and brine, dried (MgSO4) and the solvent removed by evaporation. The residue was triturated with ether/petroleum ether to give 444-chloro-2-fluoroanilino)6-methoxy-7-(trifluoromethylsulphonyloxy)quinazoline (270 mg, 60%) as a beige solid.

reactant | Trifluoromethanesulphonic anhydride | 3.3 mmol, 0.55 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-(chloro-2-fluoroanilino)7-hydroxy-6-methoxyquinazoline | 3 mmol, 959 mg | ClN(C1=C(C=CC=C1)F)C1=NC=NC2=CC(=C(C=C12)OC)O | C15H11ClFN3O2
reactant | pyridine | 2.2 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 2.2 ml | C(Cl)Cl | CH2Cl2
product | 6-methoxy-7-(trifluoromethylsulphonyloxy)quinazoline | 270 mg, 60% | COC=1C=C2C=NC=NC2=CC1OS(=O)(=O)C(F)(F)F | C10H7F3N2O4S
